US04521430
1.2 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 10 ml of pyridine, and 0.66 g of 3-nitrobenzoyl chloride is added thereto. The mixture is stirred at room temperature for one hour. After the reaction, the mixture is poured into ice-water. The crystalline precipitates are collected by filtration and then recrystallized from a mixture of ethyl acetate and n-hexane. 1.26 g of (±)-cis-2-(4-methoxyphenyl)-3-(3-nitrobenzoyloxy)-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as colorless prisms. Yield: 75%.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.2 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C20H24N2O3S
reactant | 3-nitrobenzoyl chloride | 0.66 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (±)-cis-2-(4-methoxyphenyl)-3-(3-nitrobenzoyloxy)-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.26 g, Yield: 75% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O)CCN(C)C)C=CC=C2 | C27H27N3O6S
